US04350817
1,7-Dimethyl-1,2-Dihydro-2-Oxo-4-(1-Pyrrolidinyl)-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester
A stirred mixture of 2.8 g. (0.01 mole) of 4-chloro-1,7-dimethyl-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester, 0.7 g. (0.01 mole) of pyrrolidine and 1.06 g. (0.01 mole) of sodium carbonate in 30 ml. of ethanol was heated under reflux for 5 hours. The mixture was filtered and the filtrate was cooled in ice. The precipitate which formed was collected and was recrystallized from heptane to give 1.7 g. of product, m.p. 108°-111° C.

reactant | 4-chloro-1,7-dimethyl-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 0.01 mole | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1Cl)C)C)=O | C13H13ClN2O3
reactant | pyrrolidine | 0.01 mole | N1CCCC1 | C4H9N
reactant | sodium carbonate | 0.01 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,7-Dimethyl-1,2-Dihydro-2-Oxo-4-(1-Pyrrolidinyl)-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1N1CCCC1)C)C)=O | C17H21N3O3
